US07129232B2
To a suspension of phenyl [1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]carbamate (2.18 g) and tert-butyl 3-amino-1-azetidinecarboxylate (793 mg) in methylene chloride (20 ml) was added N-ethyldiisopropylamine (1.07 ml), and the mixture was stirred under reflux for 40 hours. To the reaction mixture was added methylene chloride, and the solution was washed successively with 10% aqueous citric acid solution, 10% aqueous sodium hydroxide solution and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 10% methanol/methylene chloride to give tert-butyl 3-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1-azetidinecarboxylate (1.52 g) as a solid.

reactant | phenyl [1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]carbamate | 2.18 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(OC1=CC=CC=C1)=O | C30H26N4O2
reactant | tert-butyl 3-amino-1-azetidinecarboxylate | 793 mg | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
reactant | N-ethyldiisopropylamine | 1.07 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1-azetidinecarboxylate | 1.52 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)NC1CN(C1)C(=O)OC(C)(C)C | C32H36N6O3
